US03965115
To a solution of 6 g. of methyl 5-acetyl-7-methylxanthene-2-carboxylate in 500 ml. of absolute methanol are added 1.1 g. of sodium borohydride in 50 ml. of water at a temperature of from 25° to 30°C with stirring, over a period of about 30 minutes. After 15 minutes under these conditions, 400 ml. of water and 20 ml. of acetic acid are added and the resultant mixture is stripped of solvent. The resultant mixture is extracted with methylene chloride and washed with bicarbonate and water. The washed extracts are concentrated to give methyl 5-(1-hydroxyethyl)-7-methylxanthene-2-carboxylate.

reactant | methyl 5-acetyl-7-methylxanthene-2-carboxylate | C(C)(=O)C1=C2OC=3C=CC(=CC3CC2=CC(=C1)C)C(=O)OC | C18H16O4
reactant | methanol | CO | CH4O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | methyl 5-(1-hydroxyethyl)-7-methylxanthene-2-carboxylate | OC(C)C1=C2OC=3C=CC(=CC3CC2=CC(=C1)C)C(=O)OC | C18H18O4
